US06512136B1
To a mixture of guaiacol (1.24 g, 10 mmol), o-tolylacetic acid (1.50 9, 10 mmol), and ZnCl2 (5 g, 36.7 mmol) there was added POCl3 (15 mL, 161 mmol) and the resulting suspension was stirred and heated to 80° C. for 1.5 h. The reaction mixture was cooled and poured onto ice/water and the resulting suspension was stirred at room temperature for 1 h and then extracted with ethyl acetate. The organic layer was separated, washed with brine and dried with sodium sulphate. Volatiles were evaporated under reduced pressure and the residue was dissolved in diethylether. The solution was extracted twice with 50 mL of 2N aqueous solution of NaOH and the combined aqueous layers were combined and acidified with hydrochloric acid to pH=2. The emulsion formed was extracted by ethyl acetate, and the organic layer was washed with brine, dried, and the solvent was evaporated under diminished pressure. The residue was chromatographed on a column of silica gel with a mixture of petroleum ether and ethyl acetate to give 1-(4-hydroxy-3-methoxyphenyl)-2-(2-methylphenyl)-1-ethanone as off white crystals, m.p. 79 to 81° C.

reactant | guaiacol | 10 mmol, 1.24 g | C=1(C(O)=CC=CC1)OC | C7H8O2
reactant | o-tolylacetic acid | 10 mmol | C1(=C(C=CC=C1)CC(=O)O)C | C9H10O2
reactant | POCl3 | 161 mmol, 15 mL | O=P(Cl)(Cl)Cl | Cl3OP
catalyst | ZnCl2 | 36.7 mmol, 5 g | [Cl-].[Cl-].[Zn+2]
product | 1-(4-hydroxy-3-methoxyphenyl)-2-(2-methylphenyl)-1-ethanone | OC1=C(C=C(C=C1)C(CC1=C(C=CC=C1)C)=O)OC | C16H16O3
